US05438052
Methyl 2,5-dichloro-3,4-dihydroxybenzoate (1.1 g) (about 4.6 mmol) and 2.0 g (8.4 mmol) of dichlorodiphenylmethane are heated together to 150° C. After stirring for 1.5 hours the melt is cooled and the product is crystallized from diethyl ether. There are obtained 1.3 g of methyl 4,7-dichloro-2,2-diphenyl-1,3-benzodioxol-5-carboxylate as white crystals of m.p. 112° C.

reactant | Methyl 2,5-dichloro-3,4-dihydroxybenzoate | about 4.6 mmol, 1.1 g | ClC1=C(C(=O)OC)C=C(C(=C1O)O)Cl | C8H6Cl2O4
reactant | dichlorodiphenylmethane | 8.4 mmol, 2.0 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H10Cl2
product | methyl 4,7-dichloro-2,2-diphenyl-1,3-benzodioxol-5-carboxylate | 1.3 g | ClC1=C(C=C(C=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)Cl)C(=O)OC | C21H14Cl2O4
